US06787558B2
b) 2-Methyl-4-pyrrolidin-1-yl-quinoline-7-carbonitrile (72-3186)
A suspension of 7-iodo-2-methyl-4-pyrrolidin-1-yl-quinoline (1.50 g, 4.43 mmol), potassium cyanide (578 mg, 8.87 mmol), tetrakis(triphenylphosphine)palladium(0) (256 mg, 0.22 mmol), and copper iodide (85 mg, 0.44 mmol) in acetonitrile (10 mL) was refluxed for 90 min. After cooling the mixture was diluted with ethyl acetate, filtered, and the filtrate was washed with brine, dried (Na2SO4), and evaporated. Chromatography (SiO2, dichloromethane/methanol 19:1) yielded the title compound (791 mg, 75%). Light brown solid, ISP-MS: m/e=238.3 ([M+H]+).

reactant | 7-iodo-2-methyl-4-pyrrolidin-1-yl-quinoline | 4.43 mmol, 1.50 g | IC1=CC=C2C(=CC(=NC2=C1)C)N1CCCC1 | C14H15IN2
reactant | potassium cyanide | 8.87 mmol, 578 mg | [C-]#N.[K+]
solvent | acetonitrile | 10 mL | C(C)#N | C2H3N
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
catalyst | tetrakis(triphenylphosphine)palladium(0) | 0.22 mmol, 256 mg | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
catalyst | copper iodide | 0.44 mmol, 85 mg | [Cu](I)I
product | 2-Methyl-4-pyrrolidin-1-yl-quinoline-7-carbonitrile | 791 mg, 75% | CC1=NC2=CC(=CC=C2C(=C1)N1CCCC1)C#N | C15H15N3
